US06559172B1
Preparation of (4R*,5S*)-5-(2-Thienyl)-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole
A mixture of tosylmethylisocyanide (0.75 g, 3.84 mmol), 2-thiophenecarboxaldehyde (0.37 mL, 3.96 mmol) and sodium cyanide (0.02 g, 0.40 mmol) in EtOH (10 mL) was stirred at room temperature for 2 h. The solvent was removed to give the desired compound as a tan solid. This material was used without further purification. MS(ES+) m/z 614.8 (2M+H+).

reactant | tosylmethylisocyanide | 3.84 mmol, 0.75 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 2-thiophenecarboxaldehyde | 3.96 mmol, 0.37 mL | S1C(=CC=C1)C=O | C5H4OS
reactant | sodium cyanide | 0.40 mmol, 0.02 g | [C-]#N.[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | (4R*,5S*)-5-(2-Thienyl)-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole | S1C(=CC=C1)[C@H]1[C@H](N=CO1)S(=O)(=O)C=1C(=CC=CC1)C | C14H13NO3S2
